US07049438B2
5-[N-(tert-butoxycarbonyl)piperidin-4-yloxy]-4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxyquinazoline
A mixture of 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-piperidin-4-yloxyquinazoline (1.4 g), di-tert-butyl dicarbonate (0.737 g) and DMF (14 ml) was stirred at ambient temperature for 2 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 24:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound (1.2 g); NMR Spectrum: (CDCl3) 1.5 (s, 9H), 1.7–1.9 (m, 2H), 2.0–2.15 (m, 2H), 3.0–3.15 (m, 2H), 3.8–3.95 (m, 2H), 4.6 (m, 1H), 6.02 (s, 2H), 6.55 (s, 1H), 6,72 (d, 1H), 6.98 (m, 2H), 8.4 (s, 1H), 9.4 (s, 1H); Mass Spectrum: M+H+ 515 and 517.

reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-piperidin-4-yloxyquinazoline | 1.4 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCNCC1)O)OCO2 | C20H19ClN4O4
reactant | di-tert-butyl dicarbonate | 0.737 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
product | 5-[N-(tert-butoxycarbonyl)piperidin-4-yloxy]-4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxyquinazoline | 1.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=NC2=CC(=C1)O)NC1=C2C(=CC=C1Cl)OCO2 | C25H27ClN4O6
